US04780466
8-[3-[4-(2-Methoxyphenyl)-1-piperazinyl]propyloxy]-7-hydroxy-8-azaspiro[4.5]decan9-one
To a solution prepared from 8-[3-[4-(3-methoxyphenyl)-1-piperazinyl]propyloxy]-8-azaspiro[4.5]decan-7,9-dione (5.0 g), 300 ml of CH3OH and 100 CH2Cl2 was added NaBH4 (1.8 g) with stirring. The mixture was stirred at room temperature.

reactant | 8-[3-[4-(3-methoxyphenyl)-1-piperazinyl]propyloxy]-8-azaspiro[4.5]decan-7,9-dione | 5.0 g | COC=1C=C(C=CC1)N1CCN(CC1)CCCON1C(CC2(CCCC2)CC1=O)=O | C23H33N3O4
reactant | CH3OH | 300 ml | CO | CH4O
reactant | NaBH4 | 1.8 g | [BH4-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-[3-[4-(2-Methoxyphenyl)-1-piperazinyl]propyloxy]-7-hydroxy-8-azaspiro[4.5]decan9-one | COC1=C(C=CC=C1)N1CCN(CC1)CCCON1C(CC2(CCCC2)CC1=O)O | C23H35N3O4
